US07671095B2
Synthesis of 1,3-bis(benzyloxy)propan-2-yl Methacrylate
1,3-bis(benzyloxy)propan-2-ol (0.45 mL, 0.50 g, 1.8 mmol) and triethylamine (0.52 mL, 0.37 g, 3.7 mmol) were dissolved in dichloromethane and chilled to 0° C. Methacryloyl chloride (0.27 mL, 0.29 g, 2.8 mmol) was then added drop wise to the mixture. After mixing for 16 h, the mixture was then washed 100 mM pH 8.0 phosphate buffer (50 mL×3) and dried over anhydrous sodium sulfate. The solvent was subsequently removed using rotary evaporation under reduced pressure, and the product was isolated using silica gel chromatography at 81.0% yield.

reactant | 1,3-bis(benzyloxy)propan-2-ol | 1.8 mmol, 0.45 mL, 0.50 g | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)O | C17H20O3
reactant | triethylamine | 3.7 mmol, 0.52 mL, 0.37 g | C(C)N(CC)CC | C6H15N
reactant | Methacryloyl chloride | 2.8 mmol, 0.27 mL, 0.29 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,3-bis(benzyloxy)propan-2-yl Methacrylate | 81.0% yield | C(C(=C)C)(=O)OC(COCC1=CC=CC=C1)COCC1=CC=CC=C1 | C21H24O4
